* File: INVX1.pex.netlist
* Created: Wed Jan  2 18:42:35 2008
* Program "Calibre xRC"
* Version "v2007.2_34.24"
* 
.subckt INVX1  A GND VDD Y
* 
MM1 Y A GND GND NMOS_VTL L=5e-08 W=2.5e-07
MM0 Y A VDD VDD PMOS_VTL L=5e-08 W=5e-07
c_4 A 0 0.13599f
c_7 GND 0 0.057208f
c_10 VDD 0 0.0986293f
c_14 Y 0 0.0799346f
*
*.include "INVX1.pex.netlist.INVX1.pxi"
*
.ends
*
*
